US07291631B2
Using General Procedure B: Reaction of 6,7-Dihydro-5H-quinolin-8-one and 4-Amino-piperidine-1-carboxylic acid tert-butyl ester with NaBH(OAc)3 in CH2Cl2 gave 4-(5,6,7,8-Tetrahydro-quinolin-8-ylamino)-piperidine-1-carboxylic acid tert-butyl ester as a colorless oil.

reactant | 6,7-Dihydro-5H-quinolin-8-one | N1=CC=CC=2CCCC(C12)=O | C9H9NO
reactant | 4-Amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(5,6,7,8-Tetrahydro-quinolin-8-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1CCCC=2C=CC=NC12 | C19H29N3O2
